US05824682
A mixture of (±)-N2 -[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]-N4,N4 -dimethyl-2,4-pyrimidinediamine dihydrochloride (0.0067 mol) in methanol (150 ml) was hydrogenated with palladium on activated carbon 10% (2 g) as a catalyst in the presence of a solution of hydrochloric acid in 2-propanol (2 ml). After uptake of hydrogen (2 eq.), the catalyst was filtered off. The filtrate was evaporated and the residue was crystallized twice from methanol. The crystals were filtered off and dried, yielding 0.32 g (13.1%) of (±)-2-[[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]amino]-5,6-dihydro-4(3H)-pyrimidinone dihydrochloride; mp. 273.6° C. (comp. 12-c).

reactant | (±)-N2 -[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]-N4,N4 -dimethyl-2,4-pyrimidinediamine dihydrochloride | 0.0067 mol | Cl.Cl.O1C(CCC2=C1C=CC=C2)CNCCCNC2=NC=CC(=N2)N(C)C
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | 2 eq. | [H][H] | H2
reactant | methanol | 150 ml | CO | CH4O
catalyst | palladium on activated carbon | 2 g | [Pd] | Pd
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | (±)-2-[[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]amino]-5,6-dihydro-4(3H)-pyrimidinone dihydrochloride | 0.32 g, 13.1% | Cl.Cl.O1C(CCC2=C1C=CC=C2)CNCCCNC2=NCCC(N2)=O | InChI=1S/C17H24N4O2.2ClH/c22-16-8-11-20-17(21-16)19-10-3-9-18-12-14-7-6-13-4-1-2-5-15(13)23-14;;/h1-2,4-5,14,18H,3,6-12H2,(H2,19,20,21,22);2*1H
